Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
pain on the left side of her face after a fall
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o with hx of glaucoma of left eye, HTN, HLD,
hypothyrodism, with recent unwitnessed fall on an icy driveway
approximately 1 week ago. She does not think she sustained loss
of consciousness but does endorse a positive headstrike. The
patient was seen by a primary care physician 2 days ago for
facial swelling/ecchymosis, and her ophthalmologist yesterday,
who both advised her to present to the ED for further workup and
evaluation. The patient was then evaluated at ___ w/ 
imaging
workup earlier today and found to have L SDH, L orbital 
fracture,
and L radius fracture and was then transferred to ___ given
evidence of intracranial injury.  Pt endorses double vision over
the past week but no changes in visual acuity. Denies any
dizziness, nausea, vomiting, chest pain, shortness of breath,
abdominal pain, or changes in her bowel habits. Neurosurgery who 
did not think that you head bleed need surgery. Plastics for the 
Left orbital wall fracture and did not offer surgery at this 
admission but would consider treating as an outpatient. Patient 
presented with diplopia but Plastics did not appreciate any 
entrapment. She was iagnosed with a urinary infection and a 3 
day course of antibiotic was prescribed.

 
Past Medical History:
-Open angle glaucoma
-HTN
-HLD
-Hypothyroidism  
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Gen: NAD, resting comfortably in bed
HEENT: diplopia when L eye patch was removed, CN ___ grossly 
intact; L periorbital ecchymosis extending
ipsilaterally to clavicle. No palpable stepoffs. Midface stable.
PERRL. EOMI. Visual acuity intact. No intraoral findings.
CV: RRR
P: nonlabored breathing on room air
GI: soft, nontender, nondistended; no rebound or guarding
Ext: non tender
 
Pertinent Results:
___ 05:30PM   PLT COUNT-256
___ 05:30PM   ___ PTT-35.1 ___
___ 05:30PM   NEUTS-88.8* LYMPHS-6.4* MONOS-3.0* EOS-0.3* 
BASOS-0.4 IM ___ AbsNeut-10.22* AbsLymp-0.74* AbsMono-0.35 
AbsEos-0.03* AbsBaso-0.05
___ 05:30PM   WBC-11.5* RBC-3.97 HGB-12.0 HCT-35.6 MCV-90 
MCH-30.2 MCHC-33.7 RDW-14.2 RDWSD-46.3
___ 05:30PM   estGFR-Using this
___ 05:30PM   GLUCOSE-163* UREA N-16 CREAT-0.9 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-97 TOTAL CO2-22 ANION GAP-21*
___ 06:15PM URINE  MUCOUS-RARE
___ 06:15PM URINE  RBC-0 WBC-16* BACTERIA-FEW YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 06:15PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-MOD
___ 06:15PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:15PM URINE  HOURS-RANDOM
___ 06:15PM URINE  HOURS-RANDOM

CT max/face ___
IMPRESSION:  
  
1. Acute fracture of the inferior orbital wall extending 
anteriorly and 
laterally into the left zygoma. There is 8 mm depression of the 
fracture 
fragment into the left maxillary sinus, which is filled with 
mixed density 
blood products.  There is also a small left lateral orbital wall 
fracture. 
  
2. There is asymmetric thickening of the left inferior rectus 
muscle, when 
compared with the right, with adjacent blood products and fat 
stranding.  This 
finding raises the concern for inferior rectus injury. 
  
3. Additional impacted fracture of the anterolateral wall of the 
left 
maxillary sinus, with minimal 1 mm posterior displacement. 
  
4.  The pterygoid plates are intact. 
  
5.  Incidental note again made of the known left subdural 
hematoma, measuring 
5 mm in maximal thickness.  Although not fully assessed on this 
face CT. 

X-ray wrist 3 views ___

No acute fracture or dislocation seen.  Degenerative changes.

-----------------

CXR ___

Slight blunted left costophrenic angle, very trace pleural 
effusion not 
excluded; no large pleural effusion seen, including on the 
lateral view. 
  
No obvious displaced fracture identified, although evaluation of 
the ribs is 
limited on this study, particularly on the left. 

URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

 
Brief Hospital Course:
___ y/o with history of glaucoma of left eye, with recent 
unwitnessed fall on icy driveway X 1 week ago. She is unsure if 
she sustained loss of consciousness. Was seen by PCP today for 
facial swelling/ecchymosis who advised her to present to the ED 
for further workup and evaluation. The patient was then 
evaluated at ___ w/ imaging workup and found to have L SDH, 
L orbital fracture, and L radial fx and was then transferred to 
___.  Pt c/o double vision, binocular, since the incident. She 
reported diplopia. Neurosurgery did not think her SDH was 
operative, Ophtho evaluated and suggested L eye coverage for 
diplopia. Plastics suggested that they would not offer surgical 
treatment for her L orbital fracture during this admission but 
this will be considered during the follow-up in clinic. Tertiary 
exam was uneventful. Once the patient was ambulating well, 
tolerating a diet and moving her bowels she was discharged with 
instructions.
 
Medications on Admission:
*Atorvastatin 20mg  
 *Gemfibrozil 50mg  
 *Metoprolol Succ 50mg BID  
 *Multivitamin once daily  
 *Quetiapine Fumarate 100mg daily , ON HOLD  
 *Sertraline 50 mg daily, ON HOLD  
 *Vitamin D3 1000mg daily  
 *Ziprasidone 160 mg daily  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every 6h Disp #*90 
Tablet Refills:*1 
2.  amLODIPine 5 mg PO BID  
3.  Atorvastatin 20 mg PO QPM  
4.  Ciprofloxacin HCl 500 mg PO Q12H UTI Duration: 3 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*6 Tablet Refills:*0 
5.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0 
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Metoprolol Succinate XL 50 mg PO DAILY  
8.  QUEtiapine Fumarate 100 mg PO QHS  
9.  Senna 17.2 mg PO HS 
RX *sennosides 8.6 mg 2 tabs by mouth at bedtime Disp #*60 
Tablet Refills:*0 
10.  Sertraline 50 mg PO DAILY  
11.  ZIPRASidone Hydrochloride 160 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left subdural hematoma, Left orbital wall fracture, diplopia, 
urinary tract infection (UTI)

 
Discharge Condition:
Good

Mental Status: Confused - sometimes .
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Trauma Service at ___, because you 
had a fall on ice about 1 week before your admission, resulting 
in pain on the left side of your face. You were evaluated in 
___ and a bleed on the left side of your brain (left sided 
subdural hematoma), a fracture of your eye socket on the left 
(Left orbital wall fracture) and you were then transferred to 
___ which confirmed the 2 injuries. During your admission you 
were evaluated by Neurosurgery who did not think that you head 
bleed need surgery. You were also evaluated by Plastics for your 
Left orbital wall fracture and did not offer surgery at this 
admission but would consider treating as an outpatient. You had 
double vision but your nerve was not trapped. During your 
admission you were diagnosed with a urinary infection and a 3 
day course of antibiotic were prescribed.

Plastics clinic, appointment ___ with the Chief 
Resident's clinic for re-evaluation in 2 weeks. Given your 
discharge on a weekend the clinic was not available to contact.

___:
Please call ___ for a Neurosurgery follow-up  
     appointment with Dr. ___ in 4 weeks.

Follow-up with ophthalmology ___ weeks after discharge with Dr.
___ in ___ ___
 
 
Followup Instructions:
___